US05814651
Methyl 3-[[3-(cyclopentyloxy)-4-methoxyphenyl]methoxy]benzoate
Diisopropylazodicarboxylate (1.2 ml, 5.99 mmol, 1.2 eq)was added to a mixture of (1.10 g,4.99 mmol, 1.0 eq) 3-cyclopentyloxy-4-methoxybenzyl alcohol, (1.44 g, 5.49 mmol, 1.1 eq) triphenylphosphine, and (0.75 g, 4.99 mmol, 1.0 eq) methyl-3-hydroxy-benzoate in 30 ml of anhydrous tetrahydrofuran. After stirring for 18 hours at room temperature the reaction mixture was concentrated in vacuo and chromatographed on a silica gel column, eluting with 10%, then 15% ethyl acetate-hexane to yield 897 mg, 50%, of a clear oil. High Resolution Mass Spectra: Calc'd 356.1624. Found: 356.1600.

reactant | Diisopropylazodicarboxylate | 5.99 mmol, 1.2 ml, 1.2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 3-cyclopentyloxy-4-methoxybenzyl alcohol | 4.99 mmol, 1.10 g, 1.0 eq | C1(CCCC1)OC=1C=C(CO)C=CC1OC | C13H18O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl-3-hydroxy-benzoate | 4.99 mmol, 0.75 g, 1.0 eq | COC(C1=CC(=CC=C1)O)=O | C8H8O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Methyl 3-[[3-(cyclopentyloxy)-4-methoxyphenyl]methoxy]benzoate | C1(CCCC1)OC=1C=C(C=CC1OC)COC=1C=C(C(=O)OC)C=CC1 | C21H24O5
